US07320977B2
4-Chloro-2-(4-chlorophenyl)-5-(1-piperazinyl)-3(2H)-pyridazinone
55.1 g (200 mmol) of 2-(4-chlorophenyl)-4,5-dichlorpyridazin-3-one are introduced with 41.6 ml (300 mmol) of triethylamine in 400 ml of dimethylformamide. 137.82 g (1600 mmol) of piperazine are added, and the mixture is stirred at 80° C. overnight. The reaction mixture is cooled and then concentrated under high vacuum. The residue is taken up in dichloromethane and washed twice with water, dried over magnesium sulfate and concentrated. The product is isolated by chromatography (gradient: dichloromethane/methanol from 95:5 to 9:1) on silica gel and subsequent crystallization with ether.

reactant | 2-(4-chlorophenyl)-4,5-dichlorpyridazin-3-one | 200 mmol, 55.1 g | ClC1=CC=C(C=C1)N1N=CC(=C(C1=O)Cl)Cl | C10H5Cl3N2O
reactant | triethylamine | 300 mmol, 41.6 ml | C(C)N(CC)CC | C6H15N
reactant | piperazine | 1600 mmol, 137.82 g | N1CCNCC1 | C4H10N2
solvent | dimethylformamide | 400 ml | CN(C=O)C | C3H7NO
product | 4-Chloro-2-(4-chlorophenyl)-5-(1-piperazinyl)-3(2H)-pyridazinone | ClC=1C(N(N=CC1N1CCNCC1)C1=CC=C(C=C1)Cl)=O | C14H14Cl2N4O
